US09278968B2
To a solution of 320 mg of tert-butyl 4-[(2-acetylhydrazino)carbonyl]-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate in 10 ml of dichloroethane was added 358 mg of a Burgess reagent ((methoxycarbonylsulfamoyl)triethylammonium hydroxide inner salt), followed by stirring at 80° C. for 2 hours. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 84 mg of tert-butyl 2,2,4-trimethyl-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl 4-[(2-acetylhydrazino)carbonyl]-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 320 mg | C(C)(=O)NNC(=O)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C14H25N3O5
reactant | Burgess reagent | 358 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | tert-butyl 2,2,4-trimethyl-4-(5-methyl-1,3,4-oxadiazol-2-yl)-1,3-oxazolidine-3-carboxylate | 84 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C=1OC(=NN1)C)C)C | C14H23N3O4
